### PR TITLE
Add examples : add, swap_variant

### PR DESCRIPTION
**Pull request by valoran-M**
Addition of two new examples in Coq :

- add : very simple example, adds one to an integer
- swap_variant : swap sum type

### CODE REVIEW

File: theories/examples/add.v [hunk 1]
```diff
@@ -0,0 +1,125 @@
...
+    iIntros "!> _". wp_pures. iModIntro. iApply ("HCont" with "[-Htok] Htok").
+    iExists _. eauto.
+  Qed.
+  End LogRel.
+
+Definition add_one_client : mlanguage.expr (lang_to_mlang ML_lang) :=
+  (Extern "add_one" [ Val (#1)%MLE ]).
+
+Lemma ML_prog_correct_axiomatic :
+  ⊢ WP add_one_client at ⟨∅, add_one_ml_spec⟩ {{ v, ⌜∃ x : Z, v = #x ∧ x = 2⌝}}.
```
Comment (Armael) [inline theories/examples/add.v:96]: could the post-condition be simplified to `v = #2%Z` or similar? (without the auxiliary `x`)

File: theories/examples/swap_variant.v [hunk 2]
```diff
@@ -0,0 +1,207 @@
...
+Section C_prog.
+Import melocoton.c_lang.notation melocoton.c_lang.proofmode.
+
+Context `{SI:indexT}.
+Context `{!ffiG Σ}.
+
+
+Definition swap_variant_code (x : expr) : expr :=
+  let: "v" := malloc (#1) in
+  ("v" +ₗ #0 <- (call: &"readfield" with ("x", Val #0))) ;;
```
Comment (Armael) [inline theories/examples/swap_variant.v:29]: I think the `+ₗ #0` is not necessary (same below), things should work without it.
I also suspect that you can write just `#0` instead of `Val #0` thanks to the coercion from base_lit to val (and also below).

File: theories/examples/swap_variant.v [hunk 3]
```diff
@@ -0,0 +1,207 @@
...
+  match v with
+  | InjLV v | InjRV v => Some v
+  | _ => None
+  end.
+
+Definition swap_variant_ml_spec : protocol ML_lang.val Σ :=
+  !! (v: MLval) r
+      {{ ⌜swap_sum v = Some r⌝ }}
+        "swap_variant" with [ v ]
+      {{ RET (r); True }}.
```
Comment (Armael) [inline theories/examples/swap_variant.v:71]: `RET r` should work

File: theories/examples/swap_variant.v [hunk 4]
```diff
@@ -0,0 +1,207 @@
...
+  iAssert (⌜length lvs = 1⌝)%I as %Hlen.
+  { by iDestruct (big_sepL2_length with "Hsim") as %?. }
+  destruct lvs as [|lv []]; try by (exfalso; eauto with lia); []. clear Hlen.
+  destruct ws as [|w []]; try by (exfalso; apply Forall2_length in Hrepr; eauto with lia); [].
+  apply Forall2_cons_1 in Hrepr as [Hrepr _].
+  cbn. iDestruct "Hsim" as "(Hsim&_)".
+  wp_call_direct.
+
+  wp_alloc rr as "H"; first done.
+  change (Z.to_nat 1) with 1. cbn. iDestruct "H" as "(H&_)". destruct rr as [rr].
```
Comment (Armael) [inline theories/examples/swap_variant.v:87]: you should never need to destruct a `loc` (`destruct rr` here), it should be considered as an abstract types.

File: theories/examples/swap_variant.v (hunk 2 above)
Comment (Armael) [reply theories/examples/swap_variant.v:29]: In places in your proof where `foo +ₗ 0` appears you can use the `loc_add_0` lemma to rewrite it to `foo`

File: theories/examples/swap_variant.v [hunk 5]
```diff
@@ -0,0 +1,207 @@
...
+                          ⌜get_tag v = Some tag⌝ ∗
+                          ⌜repr_lval θ (Lloc γ) w⌝)%I as "#Hsim'".
+  { destruct v; iDestruct "ProtoPre" as "%Hptsum"; try done; simplify_eq;
+    iDestruct "Hsim" as (γ lvs ->) "[Hptsum Hrepr]"; fold block_sim.
+    - iExists γ, lvs, v, TagDefault. repeat (iSplit; try done).
+    - iExists γ, lvs, v, TagInjRV. repeat (iSplit; try done). }
+  clear. iClear "Hsim".
+  iDestruct "Hsim'" as (γ lvs vs tag) "(Hptsum&Hrepr&%Hvalue&%Htag&%Hrepr')".
+
+  (* readfield 1 *)
```
Comment (Armael) [inline theories/examples/swap_variant.v:102]: why `1`?

File: theories/examples/swap_variant.v [hunk 6]
```diff
@@ -0,0 +1,207 @@
...
+  wp_apply (wp_registerroot with "[$HGC $H]"); [done..|].
+  iIntros "(HGC & Hrr)". wp_pures.
+
+  (* read_tag(w) *)
+  wp_apply (wp_read_tag with "[$HGC ]"); [done..| |].
+  { by iDestruct "Hptsum" as "[??]". }
+  iIntros "[HGC _]". wp_pures.
+
+  wp_bind (!_)%CE.
+  iApply (wp_wand _ _ _ (λ v, ⌜v = #C(vblock_tag_as_int (swap_tag tag))⌝)%I _).
```
Comment (Armael) [inline theories/examples/swap_variant.v:118]: you don't need this last `_`

File: theories/examples/swap_variant.v [hunk 7]
```diff
@@ -0,0 +1,207 @@
...
+  Context (A B : type).
+
+  Definition program_type_ctx : program_env := 
+    {[ "swap_variant" := FunType [ TSum A B ] (TSum B A) ]}.
+
+  Lemma swap_variant_well_typed Δ : ⊢ ⟦ program_type_ctx ⟧ₚ* ⟨∅, swap_variant_ml_spec⟩ Δ.
+  Proof.
+    iIntros (s vv Φ) "!> (%ats&%rt&%Heq&Hargs&Htok&HCont)".
+    wp_extern. iModIntro. unfold program_type_ctx in Heq.
+    apply lookup_singleton_Some in Heq as (<-&Heq). simplify_eq.
```
Comment (Armael) [inline theories/examples/swap_variant.v:177]: you can use `simplify_map_eq` to do this line

**Review by Armael — APPROVED** [review]
awesome! I see you did the whole thing and showed type safety using the logical relation and proved some ML client examples.
I only have very small stylistic comments that should be easy to fix before merging!

File: theories/examples/add.v (hunk 1 above)
Comment (Armael) [reply theories/examples/add.v]: yes, you're right, the adequacy lemma indeed requires the post-condition to be in this shape.
